### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Closed/Enrichment): a closed monoidal category is enriched in itself

### PR DESCRIPTION
**Pull request by daniel-carranza**
From a monoidal closed category V, construct an instance of `EnrichedCategory V` on V where the hom-objects are given by the internal homs of the closed structure.

---

First time contributor. I am still new to formalization, so I am open any and all suggestions! In particular, the proofs here are a bit long compared to most proofs I see in the library, and I'm not sure if it's couth to use the `@[simp]` attribute for some equalities here.

Remark: As I understand, the type of simplicial sets `SSet.{v}` also has an instance of `EnrichedCategory SSet.{v}` constructed in `AlgebraicTopology/SimplicialCategory/SimplicialObject`. This enrichment comes from viewing `SSet.{v}` as a category of simplicial objects, rather than as a closed monoidal category. I'm still a beginner, but could this cause any issues if a file imports both instances?

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by b-mehta — COMMENTED** [review]
This is in pretty good shape already for a first contribution! I've left a couple of style comments.
Note that the title of your PR shouldn't be capitalised, see https://leanprover-community.github.io/contribute/commit.html

File: Mathlib/CategoryTheory/Closed/Enrichment.lean [hunk 1]
```diff
@@ -0,0 +1,119 @@
...
+
+variable {V : Type u} [Category.{u₁, u} V] [MonoidalCategory V] [MonoidalClosed V]
+
+/-- The V-identity morphism
+  𝟙_ V ⟶ hom(V, v)
+used to equip V with the structure of a V-category -/
+def id (x : V) : 𝟙_ V ⟶ (ihom x).obj x := curry (ρ_ x).hom
+
+/-- The *uncurried* composition morphism
+  x ⊗ (hom(x, y) ⊗ hom(y, z)) ⟶ (x ⊗ hom(x, y)) ⊗ hom(y, z) ⟶ y ⊗ hom(y, z) ⟶ z.
```
Comment (emilyriehl) [inline Mathlib/CategoryTheory/Closed/Enrichment.lean:41]: I think these render slightly better if you use single backticks ``lean code`` around the verbatim lean code.

**Review by emilyriehl — COMMENTED** [review]
@b-mehta is a way more expert reviewer than me. I'm curious about the answer to the dual instance question you raised. Maybe ask it on the zulip of @mckoen who provided the other instance (iirc)?

**Comment by b-mehta** [comment]
I think the dual instance could cause issues, but I don't know enough about the context of this to know what the correct solution is. I'd guess we'd like to only have one of them actually active on SSet, prove that they're the same or make the constructions so they're definitionally the same. But I don't know the maths here well enough to be sure (are they even the same, informally?). Asking on the zulip is definitely the correct thing to do.

**Comment by joelriou** [comment]
About the dual instance issue, I would suggest making the new instance in this PR a local or a scoped instance.

File: Mathlib/CategoryTheory/Closed/Enrichment.lean [hunk 2]
```diff
@@ -0,0 +1,119 @@
...
+
+/-- Associativity of V-composition. Used to prove that V is enriched in itself. -/
+theorem assoc (x y z w : V) : (α_ _ _ _).inv ≫ comp x y z ▷ _ ≫ comp x z w =
+    _ ◁ comp y z w ≫ comp x y w := by
+  apply uncurry_injective;
+  simp only [uncurry_natural_left, comp_eq]
+  rw [uncurry_curry, uncurry_curry]; dsimp
+  rw [associator_inv_naturality_middle_assoc]
+  rw [← comp_whiskerRight_assoc]
+  rw [← uncurry_eq, uncurry_curry]
```
[the remark this answers is not in the document]
Comment (daniel-carranza) [reply Mathlib/CategoryTheory/Closed/Enrichment.lean]: Indeed, this pair of rewrites is exactly that equality. The current proof is the best I could come up with in terms of cleaning on my end, but my hope is also that there should be a cleaner proof!

**Comment by daniel-carranza** [comment]
I've implemented Joel's suggestion in the current version, but I created a Zulip chat to discuss this in the <a href="https://leanprover.zulipchat.com/#narrow/stream/455414-Infinity-Cosmos/topic/Closed.20Monoidal.20cats.20are.20self-enriched"> Infinity-Cosmos </a> channel

File: Mathlib/CategoryTheory/Closed/Enrichment.lean [hunk 3]
```diff
@@ -0,0 +1,119 @@
...
+/-- Right unitality of V-composition. Used to prove that V is enriched in itself. -/
+theorem comp_id (x y : V) : (ρ_ _).inv ≫ ((ihom x).obj y) ◁ (id y) ≫ (comp x y y) = 𝟙 _ := by
+  apply uncurry_injective; simp only[uncurry_natural_left, comp_eq, id_eq];
+  rw [uncurry_curry]; simp only [compTranpose_eq, Category.assoc];
+  rw [associator_inv_naturality_right_assoc]
+  rw [whisker_exchange_assoc]; dsimp;
+  rw [← uncurry_eq, uncurry_curry];
+  simp only [whiskerLeft_rightUnitor_inv, MonoidalCategory.whiskerRight_id, Category.assoc,
+    Iso.inv_hom_id, Category.comp_id, Iso.hom_inv_id_assoc, Iso.inv_hom_id_assoc]
+  exact Eq.symm (uncurry_id_eq_ev x y)
```
[the remark this answers is not in the document]
Comment (daniel-carranza) [reply Mathlib/CategoryTheory/Closed/Enrichment.lean]: done

File: Mathlib/CategoryTheory/Closed/Enrichment.lean [hunk 4]
```diff
@@ -0,0 +1,119 @@
...
+    (ihom.ev x).app y ▷ _ ≫ (ihom.ev y).app z :=
+  rfl
+
+/-- Unfold the definition of comp.
+This exists to streamline the proof of MonoidalClosed.assoc -/
+@[simp]
+lemma comp_eq (x y z : V) : comp x y z = curry (compTranspose x y z) := rfl
+
+/-- Associativity of V-composition. Used to prove that V is enriched in itself. -/
+theorem assoc (x y z w : V) : (α_ _ _ _).inv ≫ comp x y z ▷ _ ≫ comp x z w =
```
[the remark this answers is not in the document]
Comment (daniel-carranza) [reply Mathlib/CategoryTheory/Closed/Enrichment.lean]: done

File: Mathlib/CategoryTheory/Closed/Enrichment.lean [hunk 5]
```diff
@@ -0,0 +1,119 @@
...
+    _ ◁ comp y z w ≫ comp x y w := by
+  apply uncurry_injective;
+  simp only [uncurry_natural_left, comp_eq]
+  rw [uncurry_curry, uncurry_curry]; dsimp
+  rw [associator_inv_naturality_middle_assoc]
+  rw [← comp_whiskerRight_assoc]
+  rw [← uncurry_eq, uncurry_curry]
+  rw [associator_inv_naturality_right_assoc]
+  rw [whisker_exchange_assoc]
+  rw [← uncurry_eq, uncurry_curry]
```
[the remark this answers is not in the document]
Comment (daniel-carranza) [reply Mathlib/CategoryTheory/Closed/Enrichment.lean]: done

File: Mathlib/CategoryTheory/Closed/Enrichment.lean [hunk 6]
```diff
@@ -0,0 +1,119 @@
...
+@[simp]
+lemma id_eq (x : V) : id x = curry (ρ_ x).hom := rfl
+
+/-- Unfold the definition of compTranspose.
+This exists to streamline the proof of MonoidalClosed.assoc -/
+@[simp]
+lemma compTranpose_eq (x y z : V) : compTranspose x y z = (α_ _ _ _).inv ≫
+    (ihom.ev x).app y ▷ _ ≫ (ihom.ev y).app z :=
+  rfl
+
```
[the remark this answers is not in the document]
Comment (daniel-carranza) [reply Mathlib/CategoryTheory/Closed/Enrichment.lean]: done

File: Mathlib/CategoryTheory/Closed/Enrichment.lean [hunk 7]
```diff
@@ -0,0 +1,119 @@
...
+    (ihom.ev y).app z
+
+/-- The V-composition morphism
+  hom(x, y) ⊗ hom(y, z) ⟶ hom(x, z)
+used to equip V with the structure of a V-category -/
+def comp (x y z : V) := curry (compTranspose x y z)
+
+/-- Unfold the definition of id.
+This exists to streamline the proofs of MonoidalClosed.id_comp and MonoidalClosed.comp_id -/
+@[simp]
```
[the remark this answers is not in the document]
Comment (daniel-carranza) [reply Mathlib/CategoryTheory/Closed/Enrichment.lean]: done

File: Mathlib/CategoryTheory/Closed/Enrichment.lean [hunk 8]
```diff
@@ -0,0 +1,119 @@
...
+  rw [whisker_exchange_assoc]
+  rw [← uncurry_eq, uncurry_curry]
+  simp only [comp_whiskerRight, tensorLeft_obj, Category.assoc, pentagon_inv_assoc,
+    whiskerRight_tensor, Iso.hom_inv_id_assoc]
+
+/-- Left unitality of V-composition. Used to prove that V is enriched in itself. -/
+theorem id_comp (x y : V) : (λ_ _).inv ≫ id x ▷ (ihom x).obj y ≫ comp x x y = 𝟙 _ := by
+  apply uncurry_injective; simp only [uncurry_natural_left, comp_eq, id_eq]
+  rw [uncurry_curry]
+  rw [whisker_assoc_symm];
```
[the remark this answers is not in the document]
Comment (daniel-carranza) [reply Mathlib/CategoryTheory/Closed/Enrichment.lean]: done

File: Mathlib/CategoryTheory/Closed/Enrichment.lean [hunk 9]
```diff
@@ -0,0 +1,119 @@
...
+  rw [← uncurry_eq, uncurry_curry]
+  rw [associator_inv_naturality_right_assoc]
+  rw [whisker_exchange_assoc]
+  rw [← uncurry_eq, uncurry_curry]
+  simp only [comp_whiskerRight, tensorLeft_obj, Category.assoc, pentagon_inv_assoc,
+    whiskerRight_tensor, Iso.hom_inv_id_assoc]
+
+/-- Left unitality of V-composition. Used to prove that V is enriched in itself. -/
+theorem id_comp (x y : V) : (λ_ _).inv ≫ id x ▷ (ihom x).obj y ≫ comp x x y = 𝟙 _ := by
+  apply uncurry_injective; simp only [uncurry_natural_left, comp_eq, id_eq]
```
[the remark this answers is not in the document]
Comment (daniel-carranza) [reply Mathlib/CategoryTheory/Closed/Enrichment.lean]: done

File: Mathlib/CategoryTheory/Closed/Enrichment.lean (hunk 2 above)
[the remark this answers is not in the document]
Comment (daniel-carranza) [reply Mathlib/CategoryTheory/Closed/Enrichment.lean]: I experimented (locally on my machine) with making this a separate lemma inside the `CategoryTheory/Closed/Monoidal.lean` file with the `simp` attribute. The proof now goes through using a single simp wherever these two rewrites originally occurred. Is this a good candidate simp lemma to be added to the CategoryTheory/Closed/Monoidal file? (Posted on Zulip as well)

**Comment by daniel-carranza** [comment]
@b-mehta  @joelriou Sorry for the ping! I'm wondering if anyone could take another look at this PR for suggestions/how to move towards merging the changes - thank you in advance!

File: Mathlib/CategoryTheory/Closed/Enrichment.lean [hunk 10]
```diff
@@ -0,0 +1,99 @@
...
+The V-composition morphism is defined as the adjoint transpose of this map. -/
+def compTranspose (x y z : V) :=
+  (α_ x ((ihom x).obj y) ((ihom y).obj z)).inv ≫
+    (ihom.ev x).app y ▷ ((ihom y).obj z) ≫
+    (ihom.ev y).app z
+
+/-- The V-composition morphism
+  `hom(x, y) ⊗ hom(y, z) ⟶ hom(x, z)`
+used to equip V with the structure of a V-category -/
+def comp (x y z : V) := curry (compTranspose x y z)
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Closed/Enrichment.lean:51]: Let's put a type ascription on this for readability.
```suggestion
def comp (x y z : V) : (ihom x).obj y ⊗ (ihom y).obj z ⟶ (ihom x).obj z := 
  curry (compTranspose x y z)
```

File: Mathlib/CategoryTheory/Closed/Enrichment.lean [hunk 11]
```diff
@@ -0,0 +1,99 @@
...
+
+/-- Unfold the definition of id.
+This exists to streamline the proofs of MonoidalClosed.id_comp and MonoidalClosed.comp_id -/
+lemma id_eq (x : V) : id x = curry (ρ_ x).hom := rfl
+
+/-- Unfold the definition of compTranspose.
+This exists to streamline the proof of MonoidalClosed.assoc -/
+lemma compTranpose_eq (x y z : V) :
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Closed/Enrichment.lean:59]:
```suggestion
lemma compTranspose_eq (x y z : V) :
```

File: Mathlib/CategoryTheory/Closed/Enrichment.lean [hunk 12]
```diff
@@ -0,0 +1,99 @@
...
+used to equip V with the structure of a V-category -/
+def id (x : V) : 𝟙_ V ⟶ (ihom x).obj x := curry (ρ_ x).hom
+
+/-- The *uncurried* composition morphism
+  `x ⊗ (hom(x, y) ⊗ hom(y, z)) ⟶ (x ⊗ hom(x, y)) ⊗ hom(y, z) ⟶ y ⊗ hom(y, z) ⟶ z`.
+The V-composition morphism is defined as the adjoint transpose of this map. -/
+def compTranspose (x y z : V) :=
+  (α_ x ((ihom x).obj y) ((ihom y).obj z)).inv ≫
+    (ihom.ev x).app y ▷ ((ihom y).obj z) ≫
+    (ihom.ev y).app z
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Closed/Enrichment.lean:46]:
```suggestion
def compTranspose (x y z : V) : x ⊗ (ihom x).obj y ⊗ (ihom y).obj z ⟶ z :=
  (α_ x ((ihom x).obj y) ((ihom y).obj z)).inv ≫
    (ihom.ev x).app y ▷ ((ihom y).obj z) ≫
    (ihom.ev y).app z
```

File: Mathlib/CategoryTheory/Closed/Enrichment.lean [hunk 13]
```diff
@@ -0,0 +1,99 @@
...
+variable {V : Type u} [Category.{u₁, u} V] [MonoidalCategory V] [MonoidalClosed V]
+
+/-- The V-identity morphism
+  `𝟙_ V ⟶ hom(V, v)`
+used to equip V with the structure of a V-category -/
+def id (x : V) : 𝟙_ V ⟶ (ihom x).obj x := curry (ρ_ x).hom
+
+/-- The *uncurried* composition morphism
+  `x ⊗ (hom(x, y) ⊗ hom(y, z)) ⟶ (x ⊗ hom(x, y)) ⊗ hom(y, z) ⟶ y ⊗ hom(y, z) ⟶ z`.
+The V-composition morphism is defined as the adjoint transpose of this map. -/
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Closed/Enrichment.lean:42]:
```suggestion
The V-composition morphism will be defined as the adjoint transpose of this map. -/
```
if you like

File: Mathlib/CategoryTheory/Closed/Enrichment.lean [hunk 14]
```diff
@@ -0,0 +1,99 @@
...
+This exists to streamline the proof of MonoidalClosed.assoc -/
+lemma comp_eq (x y z : V) : comp x y z = curry (compTranspose x y z) := rfl
+
+/-- For V closed monoidal, build an instance of V as a V-category -/
+scoped instance : EnrichedCategory V V where
+  Hom := fun x => (ihom x).obj
+  id := id
+  comp := comp
+  id_comp := fun _ _ => by
+    apply uncurry_injective; simp only [uncurry_natural_left, comp_eq, id_eq]
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Closed/Enrichment.lean:73]:
```suggestion
    apply uncurry_injective
    simp only [uncurry_natural_left, comp_eq, id_eq]
```
It's almost always preferred to have one tactic per line, like this

File: Mathlib/CategoryTheory/Closed/Enrichment.lean [hunk 15]
```diff
@@ -0,0 +1,99 @@
...
+    rw [uncurry_curry, whisker_assoc_symm]; simp only [compTranpose_eq, Category.assoc]
+    rw [Iso.hom_inv_id_assoc, ← comp_whiskerRight_assoc, ← uncurry_eq, uncurry_curry]
+    simp only [Functor.id_obj, triangle_assoc_comp_right_assoc, whiskerLeft_inv_hom_assoc]
+    exact (uncurry_id_eq_ev _ _).symm
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Closed/Enrichment.lean:77]:
```suggestion
    apply uncurry_injective
    rw [uncurry_natural_left, uncurry_natural_left, comp_eq, uncurry_curry, id_eq, compTranspose_eq,
      associator_inv_naturality_middle_assoc, ← comp_whiskerRight_assoc, ← uncurry_eq,
      uncurry_curry, triangle_assoc_comp_right_assoc, whiskerLeft_inv_hom_assoc,
      uncurry_id_eq_ev _ _]
```
Here's a slightly more condensed proof - entirely optional if you take it! The only real difference is in the use of `associator_inv_naturality_middle_assoc`, which lets me avoid dealing with cancelling out isomorphisms

File: Mathlib/CategoryTheory/Closed/Enrichment.lean [hunk 16]
```diff
@@ -0,0 +1,99 @@
...
+    compTranspose x y z = (α_ _ _ _).inv ≫ (ihom.ev x).app y ▷ _ ≫ (ihom.ev y).app z :=
+  rfl
+
+/-- Unfold the definition of comp.
+This exists to streamline the proof of MonoidalClosed.assoc -/
+lemma comp_eq (x y z : V) : comp x y z = curry (compTranspose x y z) := rfl
+
+/-- For V closed monoidal, build an instance of V as a V-category -/
+scoped instance : EnrichedCategory V V where
+  Hom := fun x => (ihom x).obj
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Closed/Enrichment.lean:69]:
```suggestion
  Hom x := (ihom x).obj
```

File: Mathlib/CategoryTheory/Closed/Enrichment.lean [hunk 17]
```diff
@@ -0,0 +1,99 @@
...
+  id := id
+  comp := comp
+  id_comp := fun _ _ => by
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Closed/Enrichment.lean:72]:
```suggestion
  id_comp _ _ := by
```
these mean the same thing, but the shortcut is a bit nicer :)

File: Mathlib/CategoryTheory/Closed/Enrichment.lean [hunk 18]
```diff
@@ -0,0 +1,99 @@
...
+    exact (uncurry_id_eq_ev _ _).symm
+  comp_id := fun _ _ => by
+    apply uncurry_injective
+    simp only [uncurry_natural_left, comp_eq, id_eq]
+    rw [uncurry_curry]; simp only [compTranpose_eq, Category.assoc]
+    rw [associator_inv_naturality_right_assoc, whisker_exchange_assoc]; dsimp
+    rw [← uncurry_eq, uncurry_curry]
+    simp only [whiskerLeft_rightUnitor_inv, MonoidalCategory.whiskerRight_id, Category.assoc,
+      Iso.inv_hom_id, Category.comp_id, Iso.hom_inv_id_assoc, Iso.inv_hom_id_assoc]
+    exact (uncurry_id_eq_ev _ _).symm
```
Comment (b-mehta) [inline Mathlib/CategoryTheory/Closed/Enrichment.lean:86]:
```suggestion
    apply uncurry_injective
    rw [uncurry_natural_left, uncurry_natural_left, comp_eq, uncurry_curry, compTranspose_eq,
      associator_inv_naturality_right_assoc, ← rightUnitor_tensor_inv_assoc,
      whisker_exchange_assoc, ← rightUnitor_inv_naturality_assoc, ← uncurry_id_eq_ev y y,
      ← uncurry_natural_left]
    simp [id_eq, uncurry_id_eq_ev]
```
also optional

**Review by b-mehta — APPROVED** [review]
Sorry for the delay on this. It's in very good shape overall, I made a few readability suggestions and optional alternate proofs.

**Comment by joelriou** [comment]
Most of the definitions and compatibilities in this PR could be phrased under the slightly weaker condition that only a few `Closed X` assumptions hold. Then, I believe that the definitions and lemmas should be moved to the file `Closed.Monoidal` along with the other compatibilities which were already obtained. Then, `Closed.Enrichment` should become a very short file which applies this API when `MonoidalClosed` holds.

**Comment by daniel-carranza** [comment]
Thanks everyone for the suggestions! I've implemented the simplifications and moved all the lemmas I could to the `Closed/Monoidal` file. I've also updated the comments/docstrings to reflect the new file structure

File: Mathlib/CategoryTheory/Closed/Monoidal.lean [hunk 19]
```diff
@@ -304,6 +304,87 @@ theorem ofEquiv_uncurry_def {X Y Z : C} :
...
+
+/-- Unfold the definition of `comp`.
+This exists to streamline the proof of `MonoidalClosed.assoc` -/
+lemma comp_eq (x y z : C) [Closed x] [Closed y] : comp x y z = curry (compTranspose x y z) := rfl
+
+/-!
+The proofs of associativity and unitality use the following outline:
+  1. Take adjoint transpose on each side of the equality (uncurry_injective)
+  2. Do whatever rewrites/simps are necessary to apply uncurry_curry
+  3. Conclude with simp (+ a possible exact)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Closed/Monoidal.lean:351]: Turns out no exact is necessary after simp:
```suggestion
  3. Conclude with simp
```

File: Mathlib/CategoryTheory/Closed/Monoidal.lean [hunk 20]
```diff
@@ -304,6 +304,87 @@ theorem ofEquiv_uncurry_def {X Y Z : C} :
...
+
+/-!
+The proofs of associativity and unitality use the following outline:
+  1. Take adjoint transpose on each side of the equality (uncurry_injective)
+  2. Do whatever rewrites/simps are necessary to apply uncurry_curry
+  3. Conclude with simp
+-/
+
+/-- Left unitality of the enriched structure -/
+lemma id_comp (x y : C) [Closed x] :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Closed/Monoidal.lean:355]:
```suggestion
@[reassoc (attr := simp)]
lemma id_comp (x y : C) [Closed x] :
```

File: Mathlib/CategoryTheory/Closed/Monoidal.lean [hunk 21]
```diff
@@ -304,6 +304,87 @@ theorem ofEquiv_uncurry_def {X Y Z : C} :
...
+    (λ_ ((ihom x).obj y)).inv ≫ id x ▷ _ ≫ comp x x y = 𝟙 _:= by
+  apply uncurry_injective
+  rw [uncurry_natural_left, uncurry_natural_left, comp_eq, uncurry_curry, id_eq, compTranspose_eq,
+      associator_inv_naturality_middle_assoc, ← comp_whiskerRight_assoc, ← uncurry_eq,
+      uncurry_curry, triangle_assoc_comp_right_assoc, whiskerLeft_inv_hom_assoc,
+      uncurry_id_eq_ev _ _]
+
+/-- Right unitality of the enriched structure -/
+lemma comp_id (x y : C) [Closed x] [Closed y] :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Closed/Monoidal.lean:364]:
```suggestion
@[reassoc (attr := simp)]
lemma comp_id (x y : C) [Closed x] [Closed y] :
```

File: Mathlib/CategoryTheory/Closed/Monoidal.lean [hunk 22]
```diff
@@ -304,6 +304,87 @@ theorem ofEquiv_uncurry_def {X Y Z : C} :
...
+  apply uncurry_injective
+  rw [uncurry_natural_left, uncurry_natural_left, comp_eq, uncurry_curry, compTranspose_eq,
+    associator_inv_naturality_right_assoc, ← rightUnitor_tensor_inv_assoc,
+    whisker_exchange_assoc, ← rightUnitor_inv_naturality_assoc, ← uncurry_id_eq_ev y y]
+  simp only [Functor.id_obj]
+  rw [← uncurry_natural_left]
+  simp [id_eq, uncurry_id_eq_ev]
+
+/-- Associativity of the enriched structure -/
+lemma assoc (w x y z : C) [Closed w] [Closed x] [Closed y] :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Closed/Monoidal.lean:375]:
```suggestion
@[reassoc]
lemma assoc (w x y z : C) [Closed w] [Closed x] [Closed y] :
```

File: Mathlib/CategoryTheory/Closed/Enrichment.lean [hunk 23]
```diff
@@ -0,0 +1,45 @@
...
+variable {C : Type u} [Category.{v} C] [MonoidalCategory C] [MonoidalClosed C]
+
+/-- For C closed monoidal, build an instance of C as a C-category -/
+scoped instance : EnrichedCategory C C where
+  Hom x := (ihom x).obj
+  id x := @id C _ _ x _
+  comp x y z := @comp C _ _ x y z _ _
+  id_comp x y := @id_comp C _ _ x y _
+  comp_id x y := @comp_id C _ _ x y _ _
+  assoc x y z w := @assoc C _ _ x y z w _ _ _
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Closed/Enrichment.lean:41]:
```suggestion
  id _ := id _
  comp _ _ _ := comp _ _ _
  assoc _ _ _ _ := assoc _ _ _ _
```

File: Mathlib/CategoryTheory/Closed/Monoidal.lean [hunk 24]
```diff
@@ -304,6 +304,87 @@ theorem ofEquiv_uncurry_def {X Y Z : C} :
...
+used to equip C with the structure of a C-category -/
+def id (x : C) [Closed x] : 𝟙_ C ⟶ (ihom x).obj x := curry (ρ_ x).hom
+
+/-- The *uncurried* composition morphism
+  `x ⊗ (hom(x, y) ⊗ hom(y, z)) ⟶ (x ⊗ hom(x, y)) ⊗ hom(y, z) ⟶ y ⊗ hom(y, z) ⟶ z`.
+The C-composition morphism will be defined as the adjoint transpose of this map. -/
+def compTranspose (x y z : C) [Closed x] [Closed y] : x ⊗ (ihom x).obj y ⊗ (ihom y).obj z ⟶ z :=
+  (α_ x ((ihom x).obj y) ((ihom y).obj z)).inv ≫
+    (ihom.ev x).app y ▷ ((ihom y).obj z) ≫
+    (ihom.ev y).app z
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Closed/Monoidal.lean:325]:
```suggestion
    (ihom.ev x).app y ▷ ((ihom y).obj z) ≫ (ihom.ev y).app z
```

File: Mathlib/CategoryTheory/Closed/Enrichment.lean [hunk 25]
```diff
@@ -0,0 +1,43 @@
...
+
+universe u v
+
+namespace CategoryTheory
+
+namespace MonoidalClosed
+
+variable {C : Type u} [Category.{v} C] [MonoidalCategory C] [MonoidalClosed C]
+
+/-- For C closed monoidal, build an instance of C as a C-category -/
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Closed/Enrichment.lean:34]:
```suggestion
/-- For `C` closed monoidal, build an instance of `C` as a `C`-category -/
```

File: Mathlib/CategoryTheory/Closed/Monoidal.lean [hunk 26]
```diff
@@ -304,6 +304,89 @@ theorem ofEquiv_uncurry_def {X Y Z : C} :
...
+-- A closed monoidal category C is always enriched over itself.
+-- This section contains the necessary definitions and equalities to endow C with
+-- the structure of a C-category, while the instance itself is defined in `Closed/Enrichment`.
+-- In particular, we only assume the necessary instances of `Closed x`, rather than assuming
+-- C comes with an instance of `MonoidalClosed`
+section Enriched
+
+/-- The C-identity morphism
+  `𝟙_ C ⟶ hom(x, x)`
+used to equip C with the structure of a C-category -/
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Closed/Monoidal.lean:316]:
```suggestion
used to equip `C` with the structure of a `C`-category -/
```

File: Mathlib/CategoryTheory/Closed/Monoidal.lean [hunk 27]
```diff
@@ -304,6 +304,89 @@ theorem ofEquiv_uncurry_def {X Y Z : C} :
...
+def id (x : C) [Closed x] : 𝟙_ C ⟶ (ihom x).obj x := curry (ρ_ x).hom
+
+/-- The *uncurried* composition morphism
+  `x ⊗ (hom(x, y) ⊗ hom(y, z)) ⟶ (x ⊗ hom(x, y)) ⊗ hom(y, z) ⟶ y ⊗ hom(y, z) ⟶ z`.
+The C-composition morphism will be defined as the adjoint transpose of this map. -/
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Closed/Monoidal.lean:321]:
```suggestion
The `C`-composition morphism will be defined as the adjoint transpose of this map. -/
```

File: Mathlib/CategoryTheory/Closed/Monoidal.lean [hunk 28]
```diff
@@ -304,6 +304,89 @@ theorem ofEquiv_uncurry_def {X Y Z : C} :
...
+def compTranspose (x y z : C) [Closed x] [Closed y] : x ⊗ (ihom x).obj y ⊗ (ihom y).obj z ⟶ z :=
+  (α_ x ((ihom x).obj y) ((ihom y).obj z)).inv ≫
+    (ihom.ev x).app y ▷ ((ihom y).obj z) ≫ (ihom.ev y).app z
+
+/-- The C-composition morphism
+  `hom(x, y) ⊗ hom(y, z) ⟶ hom(x, z)`
+used to equip C with the structure of a C-category -/
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Closed/Monoidal.lean:328]:
```suggestion
/-- The `C`-composition morphism
  `hom(x, y) ⊗ hom(y, z) ⟶ hom(x, z)`
used to equip `C` with the structure of a `C`-category -/
```

**Comment by joelriou** [comment]
After the kind of style suggestions, I think this PR is ready.

**Comment by daniel-carranza** [comment]
Thank you!

File: Mathlib/CategoryTheory/Closed/Enrichment.lean [hunk 29]
```diff
@@ -0,0 +1,43 @@
...
+where the hom-object is given by the internal hom (coming from the closed structure).
+
+The instance is given at the end of the file.
+
+We use `scoped instance` to avoid potential issues where C may also have
+a C-category structure coming from another source (e.g. the type of simplicial sets
+`SSet.{v}` has an instance of `EnrichedCategory SSet.{v}` as a category of simplicial objects;
+see `AlgebraicTopology/SimplicialCategory/SimplicialObject`).
+
+All structure field values are defined in `Closed/Monoidal`
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Closed/Enrichment.lean:22]:
```suggestion
All structure field values are defined in `Closed/Monoidal`.
```

File: Mathlib/CategoryTheory/Closed/Enrichment.lean [hunk 30]
```diff
@@ -0,0 +1,43 @@
...
+
+From the data of a closed monoidal category C, we define a C-category structure for C
+where the hom-object is given by the internal hom (coming from the closed structure).
+
+The instance is given at the end of the file.
+
+We use `scoped instance` to avoid potential issues where C may also have
+a C-category structure coming from another source (e.g. the type of simplicial sets
+`SSet.{v}` has an instance of `EnrichedCategory SSet.{v}` as a category of simplicial objects;
+see `AlgebraicTopology/SimplicialCategory/SimplicialObject`).
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Closed/Enrichment.lean:20]:
```suggestion
We use `scoped instance` to avoid potential issues where `C` may also have
a `C`-category structure coming from another source (e.g. the type of simplicial sets
`SSet.{v}` has an instance of `EnrichedCategory SSet.{v}` as a category of simplicial objects;
see `AlgebraicTopology/SimplicialCategory/SimplicialObject`).
```

File: Mathlib/CategoryTheory/Closed/Enrichment.lean [hunk 31]
```diff
@@ -0,0 +1,43 @@
...
+import Mathlib.CategoryTheory.Closed.Monoidal
+
+/-!
+# A closed monoidal category is enriched in itself
+
+From the data of a closed monoidal category C, we define a C-category structure for C
+where the hom-object is given by the internal hom (coming from the closed structure).
+
+The instance is given at the end of the file.
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Closed/Enrichment.lean:16]:
```suggestion
```

File: Mathlib/CategoryTheory/Closed/Enrichment.lean [hunk 32]
```diff
@@ -0,0 +1,43 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Daniel Carranza
+-/
+import Mathlib.CategoryTheory.Enriched.Basic
+import Mathlib.CategoryTheory.Closed.Monoidal
+
+/-!
+# A closed monoidal category is enriched in itself
+
+From the data of a closed monoidal category C, we define a C-category structure for C
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Closed/Enrichment.lean:12]:
```suggestion
From the data of a closed monoidal category `C`, we define a `C`-category structure for `C`.
```

**Comment by joelriou** [comment]
Thanks!

bors merge
